US04839376
Four grams of 60% sodium hydride was suspended in 100 ml tetrahydrofuran, and 17.1 g of diethylphosphonoacetonitrile was added with ice cooling. To the resulting solution, was added dropwise a solution of 10.6 g benzaldehyde in 80 ml tetrahydrofuran, and the mixture was stirred for one hour. After admixing 50 ml water, the organic layer was collected, dried over anhydrous sodium sulfate and concentrated. Distillation of the concentrate under reduced pressure (102°-106° C./6 mmHg) gave 8.9 g (yield: 69.0%) of cinnamonitrile.

reactant | sodium hydride | Four grams | [H-].[Na+]
reactant | diethylphosphonoacetonitrile | 17.1 g | C(C)OP(=O)(OCC)CC#N | C6H12NO3P
reactant | benzaldehyde | 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | cinnamonitrile | 8.9 g, yield: 69.0% | C(C=CC1=CC=CC=C1)#N | C9H7N
